US06562989B2
N-(4-cyanophenyl)diphenylamine (Table 2, Entry 6)
According to the general procedure A, 4-chlorobenzonitrile (76 mg, 0.55 mmol) reacted with diphenylamine (85 mg, 0.50 mmol) using 1 mol % of catalyst and sodium tert-butoxide (72 mg, 0.75 mmol) at 45° C. for 21 h to give the title compound (136 mg, 96%) as a white solid: 1H-NMR (400 MHz, CDCl3): δ 7.43 (d, 2H, J=8.8 Hz, Ar—H), 7.35 (m, 4H), 7.17 (m, 6H), 6.97 (d, 2H, J=8.8 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 151.56, 145.93, 133.16, 129.75, 126.14, 125.11, 119.69, 119.67, 102.46. GC/MS(EI): m/z 270 (M+).

reactant | 4-chlorobenzonitrile | 0.55 mmol, 76 mg | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | diphenylamine | 0.50 mmol, 85 mg | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | sodium tert-butoxide | 0.75 mmol, 72 mg | CC(C)([O-])C.[Na+]
product | N-(4-cyanophenyl)diphenylamine | 136 mg, 96% | C(#N)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C19H14N2
